US08247556B2
Commercially available 4-chloro-7H-pyrrolo[2,3-d]pyrimidine (1 g, 6.51 mmol) was dissolved in DMSO (15 mL) then p-toluenesulfinic acid, sodium salt (1.16 g, 6.51 mmol) and KCN (635 mg, 9.76 mmol) were added. The reaction mixture was heated at 100° C. for 17 h, cooled to RT and diluted with water. The mixture was extracted with EtOAc. The organic layers were washed with brine, dried over MgSO4 and concentrated in vacuo to give 7H-pyrrolo[2,3-d]pyrimidine-4-carbonitrile as a light yellow solid.

reactant | 4-chloro-7H-pyrrolo[2,3-d]pyrimidine | 6.51 mmol, 1 g | ClC=1C2=C(N=CN1)NC=C2 | C6H4ClN3
reactant | p-toluenesulfinic acid | C1(=CC=C(C=C1)S(=O)O)C | C7H8O2S
reactant | sodium | 6.51 mmol, 1.16 g | [Na] | Na
reactant | KCN | 9.76 mmol, 635 mg | [C-]#N.[K+]
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 7H-pyrrolo[2,3-d]pyrimidine-4-carbonitrile | N1=CN=C(C2=C1NC=C2)C#N | C7H4N4
